US08791107B2
PREPARATION x42: 4-(5-bromo-2-chloropyrimidin-4-yl)-N-(6-methoxy-2,3-dihydro-1H-inden-1-yl)morpholine-3-carboxamide
The title compound was prepared in a manner similar to PREPARATION x31 using 4-(5-bromo-2-chloropyrimidin-4-yl)morpholine-3-carboxylic acid (PREPARATION x30, 500 mg, 1.550 mmol), EDC (446 mg, 2.325 mmol), HOBt (356 mg, 2.325 mmol), 6-methoxy-2,3-dihydro-1H-inden-1-amine hydrochloride (464 mg, 2.325 mmol) and triethylamine (0.324 mL, 2.325 mmol) in DMF (10 mL). 1H NMR (400 MHz, DMSO-d6) δ 1.76-1.94 (m, 1H), 2.30-2.47 (m, 1H), 2.62-2.93 (m, 2H), 3.48-3.65 (m, 2H), 3.70 (d, J=4.80 Hz, 3H), 3.87-3.96 (m, 1H), 4.24-4.43 (m, 2H), 4.89-5.01 (m, 1H), 5.26-5.41 (m, 1H), 6.70-6.82 (m, 2H), 7.08-7.18 (m, 1H), 8.45 (s, 2H). ESI-MS m/z [M+H]+ calc'd for C19H20BrClN4O3, 467.04. found 467.3.

reactant | 4-(5-bromo-2-chloropyrimidin-4-yl)morpholine-3-carboxylic acid | 1.550 mmol, 500 mg | BrC=1C(=NC(=NC1)Cl)N1C(COCC1)C(=O)O | C9H9BrClN3O3
reactant | EDC | 2.325 mmol, 446 mg
reactant | HOBt | 2.325 mmol, 356 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 6-methoxy-2,3-dihydro-1H-inden-1-amine hydrochloride | 2.325 mmol, 464 mg | Cl.COC1=CC=C2CCC(C2=C1)N
reactant | triethylamine | 2.325 mmol, 0.324 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-(5-bromo-2-chloropyrimidin-4-yl)-N-(6-methoxy-2,3-dihydro-1H-inden-1-yl)morpholine-3-carboxamide | BrC=1C(=NC(=NC1)Cl)N1C(COCC1)C(=O)NC1CCC2=CC=C(C=C12)OC | C19H20BrClN4O3
